US07276505B2
Step 5: Preparation of 4-(3-oxo-1,3-dihydro-2H-pyrazolo[4,3-c]cinnolin-2-yl)benzoic acid
4-Hydrazinobenzoic acid (68.4 mg, 0.45 mmol) was mixed at room temperature with ethanol (5 ml) to give a creme-coloured suspension. Methyl 4-chlorocinnoline-3-carboxylate (100 mg, 0.45 mmol) was added and the mixture was heated to 45-50° C. for 1 h. The reaction mixture was cooled to room temperature and the solvent was removed under vacuum. Ethyl acetate (10 ml) was added to the residue. The mixture was stirred at room temperature for 1 h. The solids were collected by filtration and dried under vacuum. The title compound was isolated as a brown powder (120 mg, 0.39 mmol, 86%). LCMS: m/z 307 [M+H]+. NMR [DMSO-d6]: δ=7.69-7.77 (m, 1Haryl); 7.81-7.90 (m, 2Haryl); 8.05 (d, J=8.85, 2Haryl); 8.20 (d, J=7.92 Hz, 1Haryl); 8.33 (d, J=8.85 Hz, 2Haryl); 14.64 (s, NH).

reactant | 4-Hydrazinobenzoic acid | 0.45 mmol, 68.4 mg | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | Methyl 4-chlorocinnoline-3-carboxylate | 0.45 mmol, 100 mg | ClC1=C(N=NC2=CC=CC=C12)C(=O)OC | C10H7ClN2O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(3-oxo-1,3-dihydro-2H-pyrazolo[4,3-c]cinnolin-2-yl)benzoic acid | O=C1N(NC2=C1N=NC=1C=CC=CC21)C2=CC=C(C(=O)O)C=C2 | C16H10N4O3
